US07585885B2
5-Methoxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester
Stir 5-hydroxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (1.1 g, 3.9 mmol) in THF (20 mL). Add sodium hydride (0.78 g, 60% in mineral oil) and iodomethane (729 μL, 11.7 mmol). Stir at room temperature for 3 h. Concentrate to give the title product which is used directly in the next step without further purification.

reactant | 5-hydroxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 3.9 mmol, 1.1 g | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)CO)=O | C15H21NO4
reactant | sodium hydride | 0.78 g | [H-].[Na+]
reactant | iodomethane | 11.7 mmol, 729 μL | IC | CH3I
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-Methoxymethyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)COC)=O | C16H23NO4
